US08486967B2
[1-(5-Methyl-[1,3,4]thiadiazol-2-yl)-piperidin-4-yl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine
Palladium (II) acetate (3.6 mg, 0.016 mmol) and 2-(dicyclohexylphosphino)biphenyl (11.6 mg, 0.032 mmol) were stirred under nitrogen at room temperature in dioxane (1.8 mL) for 10 minutes. Sodium tert-butylat (29 mg, 0.3 mmol), (4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-piperidin-4-yl-amine dihydrochloride (77.3 mg, 0.2 mmol), N,N-diisopropylethylamine (69 L, 0.4 mmol) and 2-bromo-5-methyl-1,3,4-thiadiazole (40.2 mg; 0.22 mmol) were added and the reaction was heated to 200° C. for 30 minutes in a microwave oven. The reaction was diluted with water and extracted twice with ethyl acetate. The combined organic layers were washed with water, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using EtOAc as eluent. The title compound was obtained as a yellow solid (23 mg, 28%).

reactant | 2-(dicyclohexylphosphino)biphenyl | 0.032 mmol, 11.6 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | (4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-piperidin-4-yl-amine dihydrochloride | 0.2 mmol, 77.3 mg | Cl.Cl.C1(=CC=CC=C1)C1CCCC2=C1N=C(S2)NC2CCNCC2
reactant | N,N-diisopropylethylamine | 0.4 mmol, 69 L | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-bromo-5-methyl-1,3,4-thiadiazole | 0.22 mmol, 40.2 mg | BrC=1SC(=NN1)C | C3H3BrN2S
solvent | dioxane | 1.8 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Palladium (II) acetate | 0.016 mmol, 3.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [1-(5-Methyl-[1,3,4]thiadiazol-2-yl)-piperidin-4-yl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine | CC1=NN=C(S1)N1CCC(CC1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2 | C21H25N5S2
